### PR TITLE
Add SpaceSepBy and SpacePrefixSepBy constructs + nonempty attribute

### PR DESCRIPTION
**Pull request by MikaelMayer**
Add space-separated list constructs and `@[nonempty]` attribute to Strata DDM.

## New DDM Constructs

`SpaceSepBy` - Space-separated lists (renders as `a b c`)
`SpacePrefixSepBy` - Space-prefix-separated lists (renders as ` a b c`)

Both parse identically to `Seq` (whitespace-separated items) but differ in formatting.

## `@[nonempty]` Attribute

Mark list arguments to require at least one element:

```lean
op indexed (s:Symbol, @[nonempty] si:SpaceSepBy Index) : SMTIdentifier =>
  "(" "_ " s " " si ")";
```

Parser enforces non-emptiness with error: "expected at least one element"

## Usage

Works with `CommaSepBy`, `SpaceSepBy`, `SpacePrefixSepBy`, and `Seq`.

Example from SMT dialect:
```lean
op forall_smt (@[nonempty] svs: SpaceSepBy SortedVar, t:Term) : Term =>
  "(" "forall" "(" svs ")" t ")";
```

Tests in `StrataTest/DDM/NonemptyAttribute.lean` verify enforcement.

### CODE REVIEW

**Review by aqjune-aws — COMMENTED** [review]
Seems like a great direction to me.

What do you think about the following changes?
- What do you think about marking non-emptiness using a new attribute, say `@[nonempty]`? This way, we can also decorate existing `commaSepList`. :)
- I think the usefulness of `SpacePrefixedBy` and `SpacePrefixedByNonEmpty`is  somewhat limited, since `SpacePrefixedBy` can always be replaced with `" " SpaceSepBy` (and similarly for `SpacePrefixedByNonEmpty`). What do you think about having this patch minimalistic and focusing on adding `SpaceSepBy` and `SpaceSepByNonEmpty` only? This will already be a very useful change.

File: Strata/DDM/Integration/Lean/Gen.lean [hunk 1]
```diff
@@ -901,6 +927,26 @@ partial def getOfIdentArgWithUnwrap (varName : String) (cat : SyntaxCat) (unwrap
     let (vc, vi) ← genFreshIdentPair varName
     let body ← getOfIdentArg varName c vi
     ``(OfAstM.ofCommaSepByM $e fun $vc _ => $body)
+  | q`Init.SpaceSepBy => do
+    let c := cat.args[0]!
+    let (vc, vi) ← genFreshIdentPair varName
+    let body ← getOfIdentArg varName c vi
+    ``(OfAstM.ofSpaceSepByM $e fun $vc _ => $body)
+  | q`Init.SpaceSepByNonEmpty => do
```
Comment (aqjune-aws) [inline Strata/DDM/Integration/Lean/Gen.lean]: It seems this case and `Init.SpacePrefixedByNonEmpty` below are redundant

File: Strata/DDM/Integration/Lean/Gen.lean [hunk 2]
```diff
@@ -1091,6 +1137,10 @@ def checkInhabited (cat : QualifiedIdent) (ops : Array DefaultCtor) : StateT Inh
         match arg.cat.name with
         | q`Init.Seq => true
         | q`Init.CommaSepBy => true
+        | q`Init.SpaceSepBy => true
+        | q`Init.SpaceSepByNonEmpty => true
```
Comment (aqjune-aws) [inline Strata/DDM/Integration/Lean/Gen.lean]: This and `Init.SpacePrefixedByNonEmpty` case below as well

File: Strata/DDM/Parser.lean [hunk 3]
```diff
@@ -840,6 +847,59 @@ private def sepByParser (p sep : Parser) (allowTrailingSep : Bool := false) : Pa
...
+        if args.isEmpty then
+          -- Require at least one element
+          s.mkError "expected at least one element"
+        else
+          s
+      | _ =>
+        s
+}
+
+private def spacePrefixedParser (p : Parser) : Parser := {
```
Comment (aqjune-aws) [inline Strata/DDM/Parser.lean]: It seems `spacePrefixedParser` and `spacePrefixed1Parser` are never used. I guess it is a legacy of your previous implementation. :)

File: Strata/DL/SMT/DDMTransform/Parse.lean [hunk 4]
```diff
@@ -406,19 +346,19 @@ import SMTCore;
 // 11. Commands (cont.)
 
 // cmd_' is necessary, otherwise it raises "unexpected token 'assert'; expected identifier"
-op cmd_assert (t:Term) : Command => "(" "assert " t ")";
+op cmd_assert (t:Term) : Command => "(" "assert" t ")";
```
Comment (aqjune-aws) [inline Strata/DL/SMT/DDMTransform/Parse.lean]: I think a space is still necessary when printing this statement.

File: Strata/DL/SMT/DDMTransform/Parse.lean [hunk 5]
```diff
@@ -528,20 +451,20 @@ category EchoResponse;
...
   "(" t ")";
 
 category GetInfoResponse;
-op get_info_response (i2:InfoResponseList) : GetInfoResponse =>
+op get_info_response (i2:SpaceSepBy InfoResponse) : GetInfoResponse =>
   "(" i2 ")";
 
 category GetModelResponse;
-op get_model_response (mr:SeqModelResponse) : GetModelResponse =>
+op get_model_response (mr:SpaceSepBy ModelResponse) : GetModelResponse =>
```
Comment (aqjune-aws) [inline Strata/DL/SMT/DDMTransform/Parse.lean:461]: Could you remove the `SeqModelResponse` definition above as well please?

File: Strata/DL/SMT/DDMTransform/Translate.lean [hunk 6]
```diff
@@ -114,37 +107,21 @@ private def translateFromTermType (t:SMT.TermType):
...
-  | h1::h2::t => .some (
-    match translateFromSortedVarList t with
-    | .none => .sorted_var_list_cons srnone h1 (.sorted_var_list_one srnone h2)
-    | .some t =>
-      .sorted_var_list_cons srnone h1 (.sorted_var_list_cons srnone h2 t))
-
--- List of SortedVar to SeqPSortedVar.
--- Hope this could be elided away later. :(
+    Array (SortedVar SourceRange) :=
+  l.toArray
```
Comment (aqjune-aws) [inline Strata/DL/SMT/DDMTransform/Translate.lean]: Let's inline this function and `translateFromTermList`! Thanks to your updates, the contents are very straightforward.

**Review by aqjune-aws — CHANGES_REQUESTED** [review]
Thanks for your updates..! I believe the two categories `spaceSepBy` and `spacePrefixedBy` are indeed useful ones.

Two more comments:
- Should we rename `spacePrefixedBy` to `spaceSepPrefixedBy` to represent that `spacePrefixedBy` also separates a list of items?
- Let's add the two new categories as well as the nonempty attribute to `docs/verso/DDMDoc.lean` as well. :)

File: Strata/DDM/AST.lean [hunk 7]
```diff
@@ -168,6 +168,8 @@ inductive ArgF (α : Type) : Type where
 | option (ann : α) (l : Option (ArgF α))
 | seq (ann : α) (l : Array (ArgF α))
 | commaSepList (ann : α) (l : Array (ArgF α))
+| spaceSepList (ann : α) (l : Array (ArgF α))
+| spacePrefixedList (ann : α) (l : Array (ArgF α))
```
Comment (joehendrix) [inline Strata/DDM/AST.lean]: I think we should not add new cases to ArgF (and probably should remove `commaSepList`).

Could you just use the `seq` constructor for all three cases, and then have the pretty printer still print them correctly?  The category being printed should be available, but if not, we could add an extra parameter to `seq` with the type of list being constructed.

Comment (joehendrix) [reply Strata/DDM/AST.lean]: Sorry, I should have checked before commenting.  It looks like `ArgF.mformatM` doesn't know what category the argument has.  I'd propose declaring a simple inductive type `SeqOp` or similar and adding that as an argument to the `seq` constructor so we know what to do when pretty-printing, but otherwise traversal code only needs to consider one constructor instead of 4.

File: Strata/DL/SMT/DDMTransform/Parse.lean (hunk 4 above)
Comment (MikaelMayer) [reply Strata/DL/SMT/DDMTransform/Parse.lean]: Thank you for catching this untested space. Fortunately it will soon be tested because I'm using this printer in the B3 pipeline https://github.com/strata-org/Strata/pull/307

Comment (aqjune-aws) [reply Strata/DL/SMT/DDMTransform/Parse.lean]: Cool...!

File: Strata/DDM/Integration/Lean/Gen.lean [hunk 8]
```diff
@@ -729,7 +733,32 @@ partial def toAstApplyArg (vn : Name) (cat : SyntaxCat) (unwrap : Bool := false)
...
+    let c := cat.args[0]!
+    let e ← genFreshLeanName "e"
+    let canE ← genIdentFrom e (canonical := true)
+    let t ← toAstApplyArg e c
+    let args := mkCApp ``Array.map #[
+          ←`(fun ⟨$canE, _⟩ => $t),
+          mkCApp ``Array.attach #[mkCApp ``Ann.val #[v]]
+    ]
+    let sepExpr := mkCApp ``SepFormat.space #[]
+    return mkCApp ``ArgF.seq #[mkCApp ``Ann.ann #[v], sepExpr, args]
```
Comment (joehendrix) [inline Strata/DDM/Integration/Lean/Gen.lean]: I think this would cleaner if we introduce a function that extracts common code out:

```
partial def toAstApplyArgSeq (vn : Name) (cat : SyntaxCat) (sepFormat : Name) : GenM Term := do
    assert! cat.args.size = 1
    let c := cat.args[0]!
    let e ← genFreshLeanName "e"
    let canE ← genIdentFrom e (canonical := true)
    let t ← toAstApplyArg e c
    let args := mkCApp ``Array.map #[
          ←`(fun ⟨$canE, _⟩ => $t),
          mkCApp ``Array.attach #[mkCApp ``Ann.val #[v]]
    ]
    let sepExpr := mkCApp sepFormat #[]
    return mkCApp ``ArgF.seq #[mkCApp ``Ann.ann #[v], sepExpr, args]
```

Then replace all the expr variants with calls to this.  It'll need to be partial of a mutual block since it is recursive with `mkCApp`.

File: Strata/DDM/Integration/Lean/Gen.lean [hunk 9]
```diff
@@ -901,6 +931,16 @@ partial def getOfIdentArgWithUnwrap (varName : String) (cat : SyntaxCat) (unwrap
     let (vc, vi) ← genFreshIdentPair varName
     let body ← getOfIdentArg varName c vi
     ``(OfAstM.ofCommaSepByM $e fun $vc _ => $body)
+  | q`Init.SpaceSepBy => do
+    let c := cat.args[0]!
+    let (vc, vi) ← genFreshIdentPair varName
+    let body ← getOfIdentArg varName c vi
+    ``(OfAstM.ofSpaceSepByM $e fun $vc _ => $body)
```
Comment (joehendrix) [inline Strata/DDM/Integration/Lean/Gen.lean]: I think similarly to above we can group the four sequence operators into common code.

File: Strata/DDM/Integration/Lean/OfAstM.lean [hunk 10]
```diff
@@ -171,23 +171,45 @@ def ofCommaSepByM {α β} [Repr α] [SizeOf α]
...
+  | .seq ann .comma a => do
     let val ← a.attach.mapM fun ⟨v, vIn⟩  => do
       act v (by decreasing_tactic)
     pure { ann := ann, val := val }
-  | _ => throwExpected "seq" arg
+  | _ => throwExpected "commaSepBy" arg
 
 def ofSeqM {α β} [Repr α] [SizeOf α]
       (arg : ArgF α)
       (act : ∀(e : ArgF α), sizeOf e < sizeOf arg → OfAstM β)
```
Comment (joehendrix) [inline Strata/DDM/Integration/Lean/OfAstM.lean]: Add `SepFormat` as an argument and then we can remove `ofSpaceSepByM` and related functions.

File: Strata/DDM/Ion.lean [hunk 11]
```diff
@@ -622,13 +619,25 @@ private protected def ArgF.fromIon {α} [FromIon α] (v : Ion SymbolId) : FromIo
...
+    let args ← sexp.attach.mapM_off (start := 2) fun ⟨u, _⟩ =>
+      Strata.ArgF.fromIon u
+    return .seq ann .space args
+  | "spacePrefixedList" => do
+    let ⟨p⟩ ← .checkArgMin "spacePrefixedList" sexp 2
     let ann ← fromIon sexp[1]
     let args ← sexp.attach.mapM_off (start := 2) fun ⟨u, _⟩ =>
       Strata.ArgF.fromIon u
-    return .commaSepList ann args
+    return .seq ann .spacePrefix args
```
Comment (joehendrix) [inline Strata/DDM/Ion.lean]: Similar to other comments, can you extract out common functionality?

File: Strata/DDM/Parser.lean
Comment (joehendrix) [inline Strata/DDM/Parser.lean]: The bodies of all these cases also look identical.  Probably easiest just to make an if check and share code.

File: Strata/DDM/Parser.lean [hunk 12]
```diff
@@ -848,27 +873,53 @@ def manyParser (p : Parser) : Parser := {
       s
     else
       match s.stxStack.back with
-      | .node .none k args =>
+      | .node .none _k args =>
```
Comment (joehendrix) [inline Strata/DDM/Parser.lean]: Why start k with an underscore?  That's usually for unused names, but it looks to be used.

File: Strata/DDM/Elab/Tree.lean [hunk 13]
```diff
@@ -268,6 +278,8 @@ inductive Info
 | ofOptionInfo (info : OptionInfo)
 | ofSeqInfo (info : SeqInfo)
 | ofCommaSepInfo (info : CommaSepInfo)
+| ofSpaceSepInfo (info : SpaceSepInfo)
+| ofSpacePrefixedInfo (info : SpacePrefixedInfo)
```
Comment (joehendrix) [inline Strata/DDM/Elab/Tree.lean]: This seems like another place where we could reduce duplication.  Just have SeqInfo take a SepFormat.

File: Strata/DDM/Ion.lean [hunk 14]
```diff
@@ -617,32 +615,30 @@ private protected def ArgF.fromIon {α} [FromIon α] (v : Ion SymbolId) : FromIo
...
+    | have h : sizeOf sexp[1] < sizeOf sexp := by decreasing_tactic
+      have : sizeOf sexp < sizeOf v := sexpP.2
+      omega
+    | have h : sizeOf sexp[2] < sizeOf sexp := by decreasing_tactic
+      have : sizeOf sexp < sizeOf v := sexpP.2
+      omega
+    | have h : sizeOf u < sizeOf sexp := by decreasing_tactic
+      have : sizeOf sexp < sizeOf v := sexpP.2
+      omega
+    | decreasing_tactic
```
Comment (joehendrix) [inline Strata/DDM/Ion.lean:641]: I'm not sure if I like this pattern more than the previous,  but longer term I feel like there should be a way to fully automate the pattern here and that's out of scope for this PR.

**Review by aqjune-aws — APPROVED** [review]
Thanks :)
